US09260420B2
Synthesis of dodecanoic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-2H-quinolin-1-ylmethyl ester
To a solution (5 ml) of dodecanoic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethyl ester (150 mg) synthesized in the same manner as in Example 21 in THF was added trifluoroacetic acid (TFA) (0.11 ml), then to a solution (3 ml) of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) (0.27 g) in THF was added, and the mixture was stirred at room temperature for 3 days. To the reaction mixture were added water and sodium carbonate, and the mixture was extracted with dichloromethane, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by preparative thin layer chromatography (ethyl acetate) to give the title compound (yield 50 mg, 33.4%) as a brown oil.

reactant | dodecanoic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethyl ester | 5 ml, 150 mg | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(N(C1=C2)COC(CCCCCCCCCCC)=O)=O | C38H53N3O4S
reactant | trifluoroacetic acid | 0.11 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 3 ml, 0.27 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | dodecanoic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-2H-quinolin-1-ylmethyl ester | yield 50 mg, 33.4% | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1C=CC(N(C1=C2)COC(CCCCCCCCCCC)=O)=O | C38H51N3O4S
